US04013641
7-METHYL-5-(3-PIPERIDINOPROPYL)-7H-INDOLO[3,2-b][1,5]BENZOXAZEPIN-6(5H)-ONE HYDROCHLORIDE
A mixture of 1.8g of 7-methyl-7H-indolo [3,2-b][1,5]benzoxazepin-6(5H)-one, 0.42g of 57% sodium hydride-mineral oil dispersion and 10ml of THF was refluxed for 15 min. and then treated with 4.0g of 3-chloropropylpiperidine. The mixture was refluxed for 24 hrs., diluted with 2N HCl and extracted with ether. The aqueous layer was made basic with 5% NaOH and the oil extracted with ether. The ether phase was dried and treated with dry HCl to give a white solid. The solid was recrystallized from methanol-ether to give analytical material, mp. 205°-6°.

reactant | 7-methyl-7H-indolo [3,2-b][1,5]benzoxazepin-6(5H)-one | 1.8g | CN1C(C2=C(OC3=C1C=CC=C3)C3=CC=CC=C3N2)=O | C16H12N2O2
reactant | sodium hydride | 0.42g | [H-].[Na+]
reactant | THF | 10ml | C1CCOC1 | C4H8O
reactant | 3-chloropropylpiperidine | 4.0g | ClCCCN1CCCCC1 | C8H16ClN
solvent | HCl | 2N | Cl | ClH
product | 7-METHYL-5-(3-PIPERIDINOPROPYL)-7H-INDOLO[3,2-b][1,5]BENZOXAZEPIN-6(5H)-ONE HYDROCHLORIDE | Cl.CN1C(C2=C(OC3=C1C=CC=C3)C3=CC=CC=C3N2CCCN2CCCCC2)=O | InChI=1S/C24H27N3O2.ClH/c1-25-20-12-5-6-13-21(20)29-23-18-10-3-4-11-19(18)27(22(23)24(25)28)17-9-16-26-14-7-2-8-15-26;/h3-6,10-13H,2,7-9,14-17H2,1H3;1H
